US06498165B1
Step B: 1-(Benzyloxycarbonyl)-4-(tert-butyloxycarbonyl)-2-hydroxymethylpiperazine
To a solution of 5.32 g of methyl 1-(benzyloxycarbonyl)-4-(tert-butyloxycarbonyl)piperazine-2-carboxylate in 30 mL of THF was added 834 mg of lithium chloride, 744 mg of sodium borohydride, and 30 mL of ethanol. The mixture was stirred overnight at room temperature, concentrated, and redissolved in 200 mL of CH2Cl2. This CH2Cl2 solution was washed with 100 mL of water and 100 mL of brine, dried over MgSO4, and concentrated. The residue was purified by flash chromatography, eluting with a gradient system of 2:1 hexanes-EtOAc to 1:1 hexanes-EtOAc, to yield 2.65 g of the title compound as a colorless oil.

reactant | methyl 1-(benzyloxycarbonyl)-4-(tert-butyloxycarbonyl)piperazine-2-carboxylate | 5.32 g | C(C1=CC=CC=C1)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)C(=O)OC | C19H26N2O6
reactant | lithium chloride | 834 mg | [Cl-].[Li+]
reactant | sodium borohydride | 744 mg | [BH4-].[Na+]
reactant | ethanol | 30 mL | C(C)O | C2H6O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-(Benzyloxycarbonyl)-4-(tert-butyloxycarbonyl)-2-hydroxymethylpiperazine | 2.65 g | C(C1=CC=CC=C1)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)CO | C18H26N2O5
